US08303978B2
To a mixture of 2-hydroxy-benzoic acid carboxymethyl ester (22.8 grams) and triethylamine (22.6 ml) in acetone (200 ml) was added dichloro linker (10 grams). The reaction mixture was stirred at room temperature for 1 hour and then refluxed for 18 hours. The reaction mixture was poured onto cold water and crude product was extracted into ethyl acetate. It was washed with 5% sodium bicarbonate solution and water, followed by drying over sodium sulphate. The solvent was distilled off and precipitated with diisopropyl alcohol to give 8 grams of pure Aspirin dimer diol as a white powder with a melting point of 99-102° C. The product was characterized by 1H NMR (DMSO-d6) δ 4.40 (s, 2H, CH2), 4.90 (s, 2H, CH2), 5.15 (s, 2H, CH2), 7.05 (m, 2H, Ar), 7.62 (t, 1H, Ar), 7.90 (d, 1H, Ar), 10.30 (s, 1H, ArOH).

reactant | 2-hydroxy-benzoic acid carboxymethyl ester | 22.8 grams | C(=O)(O)COC(C1=C(C=CC=C1)O)=O | C9H8O5
reactant | triethylamine | 22.6 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | Aspirin | 8 grams | CC(=O)OC=1C=CC=CC1C(=O)O | C9H8O4
